US07268133B2
Preparation of Intermediate Trifluoromethanesulfonic Acid 2,2-Difluoropropyl Ester (I-10A-7c):
To a solution of 2,2-difluoropropan-1-ol (I-10A-7b; 1.76 g, 18.3 mmol), dimethylaminopropylamine (DMAP: 157 mg, 1.3 mmol), and triethylamine (2.20 g, 3.1 ml, 22 mmol) in CH2Cl2 (15 ml) at 0° C. was added triflic anhydride (Tf2O; 6.2 g, 3.7 ml, 22 mmol). The reaction mixture initially turned a pink color, then a yellow color following the complete addition of Tf2O. The reaction mixture was stirred at 0° C. for 2 hours and diluted with CH2Cl2. The organic solution was washed with water, 1 M aqueous citric acid, and saturated aqueous NaHCO3, dried, and concentrated under reduced pressure (225 mm/Hg; bath temperature −30° C.) to give the desired product, trifluoromethanesulfonic acid 2,2-difluoropropyl ester (I-10A-7c), as a pink oil (3 g, 72%): 1H NMR (400 MHz, CDCl3) δ 4.49 (t, J=10.8 Hz, 2H), 1.74 (t, 3H).

reactant | 2,2-difluoropropan-1-ol | 18.3 mmol, 1.76 g | FC(CO)(C)F | C3H6F2O
reactant | dimethylaminopropylamine | 1.3 mmol, 157 mg | CN(C)CCCN | C5H14N2
reactant | triethylamine | 22 mmol, 3.1 ml, 2.20 g | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 22 mmol, 3.7 ml, 6.2 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | Tf2O | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | trifluoromethanesulfonic acid 2,2-difluoropropyl ester | FC(COS(=O)(=O)C(F)(F)F)(C)F | C4H5F5O3S
